Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
All allergies / adverse drug reactions previously recorded have 
been deleted
 
Attending: ___
 
Chief Complaint:
Syncopal episode ___, Refractory ascites and renal failure 
 
Major Surgical or Invasive Procedure:
Paracentesis ___
Transjugular liver biopsy ___

 
History of Present Illness:
Mrs. ___ is a ___ woman with PMH of cirrhosis of 
unknown etiology c/b recurrent ascites and grade I esophageal 
varices, atrial fibrillation (on rivaroxaban), CAD, HFrEF (EF 
20% in ___, prior CVA, who presents as a transfer from OSH for 
recurrent ascites and renal failure.

The patient was recently diagnosed with cirrhosis. She is 
unclear about the full details of her diagnostic odyssey, but 
she initially presented to her PCP with abdominal distension and 
diarrhea in ___. She underwent a variety of tests and was 
referred to a surgeon at one point, before she believes she
underwent a CT scan of her abdomen and was diagnosed with 
cirrhosis at that time around ___. She has not established 
with a hepatologist for her care as of yet. In ___, the 
patient began requiring weekly paracenteses for recurrent 
ascites, getting her third paracentesis on ___ with 
removal
of 4.8L of ascites followed by 12.5gm albumin. 

Following her paracentesis, the patient was doing well 
initially, but then developed progressive generalized weakness 
which culminated in a syncopal episode while walking to her 
kitchen on ___. The patient lost consciousness for 
approximately 30 seconds, but was immediately oriented after 
regaining
consciousness. She had never had a syncopal episode in the past. 
As a result, the patient presented to ___ 
for evaluation. At presentation, she was noted to be tachycardic 
and appeared to be volume depleted. Labs were notable for WBC 
18.5, Hgb 13.6, INR 1.8, Na 131, Cl 88, BUN 29, Cr 1.7, anion 
gap 16, AST 138, ALT 53, AlkPhos 166, Tbili 2.0. UA was notable 
for 7 WBCs, 9 epis, trace bacteria. The patient was admitted and 
felt
to be likely volume depleted. As a result, she was given IVF and 
albumin with improvement in Cr to 1.0. The patient was then 
resumed on furosemide 40mg (half her home dose of 80mg) and 
spironolactone 50mg several days later. However, her renal 
function subsequently worsened. Nephrology was consulted and 
felt
that the patient may have multifactorial renal dysfunction 
secondary to cardiorenal vs hepatorenal syndrome. The patient 
previously was known to have poor cardiac function with LVEF 20% 
in ___. The patient subsequently underwent diagnostic 
paracentesis on ___ with removal of 120cc of clear yellow 
ascites
fluid with finding of albumin 1.1 (serum albumin 3.9), total 
protein 2.0, and no concern for SBP. Given the patient's 
refractory ascites and worsening renal function with diuresis, 
the decision was made to transfer the patient to ___ for 
further management.

On arrival to ___, the patient's vitals were T 98.3F, BP 
102/68, HR 84, RR 18, O2 sat 93% RA. The patient confirmed the 
above history. 
 
Past Medical History:
Cirrhosis of unknown etiology c/b recurrent ascites and grade I
esophageal varices
Atrial fibrillation (on rivaroxaban)
CAD
HF with recovered EF (EF 20% in ___ - Echo during this 
hospitalization demonstrated recovered ejection fraction
Prior CVA
 
Social History:
___
Family History:
Patient is adopted; family history unclear
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION: 
================================== 
VS: T 98.3F, BP 102/68, HR 84, RR 18, O2 sat 93% RA
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: abdomen distended with positive shifting dullness;
otherwise soft, non-tender. 
EXTREMITIES: warm, no edema 
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose. No
asterixis. Alert and oriented to person, place, date, and
situation.  
SKIN: non-jaundiced

DISCHARGE PHYSICAL EXAM: 
==============================
___ 0726 Temp: 97.6 PO BP: 120/78 R Lying HR: 71 RR: 18 O2
sat: 97% O2 delivery: Ra 
___ Total Intake: 860ml 
___ Urine Amt: 650ml 
GENERAL: older woman in mild acute distress 
HEENT: anicteric sclera, MMM, NC/AT
HEART: RRR, normal S1/S2, no murmurs, gallops, or rubs   
LUNGS: breathing comfortably without use of accessory muscles; 
clear to auscultation 
ABDOMEN: abdomen soft, nontender, nondistended 
EXTREMITIES: warm and well perfused, no lower extremity edema 
NEURO: A&Ox3, moving all 4 extremities with purpose. No 
asterixis.
SKIN: non-jaundiced, no other rashes
 
Pertinent Results:
ADMISSION LABS: 
===========================================================
___ 02:44AM BLOOD WBC-11.0* RBC-3.69* Hgb-10.4* Hct-32.0* 
MCV-87 MCH-28.2 MCHC-32.5 RDW-22.6* RDWSD-71.2* Plt ___
___ 02:44AM BLOOD Neuts-77.2* Lymphs-13.2* Monos-8.4 
Eos-0.0* Baso-0.7 Im ___ AbsNeut-8.45* AbsLymp-1.45 
AbsMono-0.92* AbsEos-0.00* AbsBaso-0.08
___ 02:44AM BLOOD ___ PTT-30.7 ___
___ 02:44AM BLOOD Ret Aut-1.6 Abs Ret-0.06
___ 02:44AM BLOOD Glucose-86 UreaN-24* Creat-1.6* Na-142 
K-3.7 Cl-106 HCO3-24 AnGap-12
___ 02:44AM BLOOD ALT-35 AST-100* LD(LDH)-370* AlkPhos-106* 
TotBili-1.6* DirBili-0.5* IndBili-1.1
___ 02:44AM BLOOD TotProt-6.1* Albumin-3.8 Globuln-2.3 
Calcium-8.5 Phos-3.0 Mg-1.8 Iron-33

Free Kappa71.8*3.3 - ___
Free Lambda36.0*5.7 - ___
Free Kappa/Free Lambda Ratio1.99*0.26 - 1.65
ABNORMAL BAND IN GAMMA REGION
IT REPRESENTS A MONOCLONAL IGG LAMBDA
BASED ON IFE (SEE SEPARATE REPORT),
NOW REPRESENTS, BY DENSITOMETRY, ROUGHLY
3.4% (204 MG/DL) OF TOTAL PROTEIN

CIRRHOSIS WORK UP
============================================================
ALPHA-1-ANTITRYPSIN QN        145                 83-199 mg/dL
LKM-1 ANTIBODY (IGG)          <=20.0              <=20.0 U
___ 02:44AM BLOOD calTIBC-137* VitB12-752 Hapto-130 
Ferritn-80 TRF-105*
___ 02:44AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG HAV Ab-NEG
___ 02:44AM BLOOD AMA-NEGATIVE Smooth-NEGATIVE
___ 02:44AM BLOOD ___ AFP-4.0
___ 02:44AM BLOOD HCV Ab-NEG
Carcinoembyronic Antigen (CEA)9.9*0 - 4ng/mL
___ 02:44AM BLOOD TSH-18*
___ 02:44AM BLOOD T4-10.6

RENAL FAILURE WORK UP 
=============================================================
___ 09:04PM URINE Hours-RANDOM UreaN-1157 Creat-251 Na-24 
TotProt-296 Prot/Cr-1.2*
___ 03:46PM URINE Hours-RANDOM UreaN-1201 Creat-306 Na-<20 
TotProt-385 Prot/Cr-1.3*
___ 09:04PM URINE CastHy-16*
___ 09:04PM URINE RBC-11* WBC-56* Bacteri-FEW* Yeast-NONE 
Epi-7
___ 09:04PM URINE Blood-SM* Nitrite-NEG Protein-300* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 12:20PM URINE Blood-SM* Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 12:34PM URINE Blood-MOD* Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 05:12PM URINE Hours-RANDOM UreaN-908 Creat-161 Na-<20 
TotProt-214 Prot/Cr-1.3* 
Urine protein electrophoresis: MULTIPLE PROTEIN BANDS SEEN, WITH 
ALBUMIN PREDOMINATING, BASED ON IFE (SEE SEPARATE REPORT), 
MONOCLONAL FREE LAMBDA (___ DETECTED NOW REPRESENTS 9% 
OF TOTAL URINARY PROTEIN, BASED ON THIS SAMPLE'S 
PROTEIN/CREATININE RATIO, AND ASSUMING DAILY CREATININE 
EXCRETION OF 1000 MG WE ESTIMATE THIS PATIENT'S ___ 
EXCRETION AS 9 % * 1.3 * 1000 = 120 MG/DAY

PARACENTESIS: 
=================================================
___ 04:55PM ASCITES TNC-177* RBC-429* Polys-3* Lymphs-16* 
___ Mesothe-46* Macroph-33* Other-2*
___ 04:30PM ASCITES TNC-328* RBC-320* Polys-1* Lymphs-49* 
Monos-23* Mesothe-9* Macroph-18*
CYTOLOGY: 
NEGATIVE FOR MALIGNANT CELLS.
Mesothelial cells, lymphocytes, and histiocytes. 

MICROBIOLOGY: 
====================================================

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
___ 9:04 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      YEAST.    10,000-100,000 CFU/mL. 
___ 4:55 pm PERITONEAL FLUID      PERITONEAL FLUID. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH.
___ 12:34 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ENTEROCOCCUS SP..    10,000-100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------  =>32 R
LINEZOLID-------------     2 S
NITROFURANTOIN--------   128 R
TETRACYCLINE----------   <=1 S
VANCOMYCIN------------  =>32 R

___ 4:30 pm PERITONEAL FLUID

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count, if 
applicable. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

IMAGING: 
==========================================
___ Liver Ultrasound 
IMPRESSION:
1. Cirrhotic liver with an indeterminate 2.1 cm hypoechoic 
lesion in segment 6 which is incompletely evaluated on current 
exam.  This could be better evaluated with CT or MRI.
2. At least partial occlusion of the superior mesenteric and 
splenic veins
with possible partial occlusion of the main portal vein.  The 
left portal vein is completely occluded.  The right anterior 
portal vein appears patent.  The right posterior portal vein is 
not visualized.
3. Moderate volume ascites.
4. Mild splenomegaly.

___ Renal Ultrasound
IMPRESSION: 
Normal renal ultrasound.  Moderate volume ascites.

Liver MRI ___: 
RECOMMENDATION(S):
1. Liver cirrhosis with severe ascites and evidence of a 
recanalized
paraumbilical vein.
2. Indeterminate 1.9 cm lesion along the inferior medial margin 
of the liver could reflect a regenerative nodule however 
attention on follow-up imaging is recommended.
3. There is no evidence of portal vein thrombosis.  Of note, the 
entire SMA
was not imaged.

ECHO ___: 
The left atrial volume index is moderately increased. No 
thrombus/mass is seen in the body of the left atrium ___ 
excluded by TEE). The right atrium is moderately enlarged. There 
is no evidence for an atrial septal
defect by 2D/color Doppler. There is mild symmetric left 
ventricular hypertrophy with a normal cavity size. There is 
normal regional and global left ventricular systolic function. 
Quantitative biplane left ventricular
ejection fraction is 65 %. Left ventricular cardiac index is low 
normal (2.0-2.5 L/min/m2). There is no resting left ventricular 
outflow tract gradient. Mildly dilated right ventricular cavity 
with normal free wall
motion. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. The aortic valve leaflets (3) appear 
structurally normal. There is no aortic valve stenosis. There is 
no aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. There is an 
eccentric, anteriorly directed jet of mild to moderate [___] 
mitral
regurgitation. Due to the Coanda effect, the severity of mitral 
regurgitation could be UNDERestimated. The tricuspid valve 
leaflets appear structurally normal. There is mild [1+] 
tricuspid regurgitation. The estimated pulmonary artery systolic 
pressure is high normal. There is no pericardial effusion.
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/global biventricular systolic 
function. Mild-moderate mitral regurgitation. High normal 
pulmonaryartery systolic pressure.

KUB ___:
IMPRESSION: 
 Unremarkable bowel gas pattern.  Probable persistent ascites.

CT ABDOMEN/PELVIS ___: 
LOWER CHEST: Mild atelectatic changes in the left base as well 
as trace left pleural effusion.  There are coronary 
calcifications.  The interventricular septum is well seen, 
secondary to anemia.
ABDOMEN:
HEPATOBILIARY: Liver shrunken and nodular consistent with 
cirrhosis.  The
liver contains multiple cysts, largest measuring 2.3 cm. There 
is a 1.9 cm
lesion that is denser than the other cysts along the inferior 
margin of the
right lobe of the liver, which show no enhancement on the recent 
liver MR,
suggesting proteinaceous or hemorrhagic content.  Attenuation of 
the
background liver measures about 70 Hounsfield units, relatively 
high,
suggesting either iron overload or amiodarone use or toxicity in 
the
appropriate setting.
There is no evidence of intrahepatic or extrahepatic biliary 
dilatation.  The gallbladder contains dense material, likely 
small gallstones or sludge,
although tiny stones were not visualized on the MR.
___ is moderate to severe ascites in the abdomen.  There is no 
evidence for hemorrhagic collection or changes.
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions within the limitations of an 
unenhanced scan.  There is no
pancreatic ductal dilatation.  There is no peripancreatic 
stranding.
SPLEEN: The spleen shows normal size and attenuation throughout, 
without
evidence of concerning focal lesions.
ADRENALS: The right and left adrenal glands are normal in size 
and shape.
URINARY: The kidneys are of normal and symmetric size.  There is 
no evidence of focal renal lesions within the limitations of an 
unenhanced scan.  There is no hydronephrosis.  There is no 
nephrolithiasis, but there are vascular calcifications. There is 
no perinephric abnormality.
 
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate normal caliber and wall thickness throughout.  
The colon and rectum are within normal limits. The appendix is 
normal.  Very small left fat containing paraumbilical hernia.  
Small right inguinal hernia is distended with ascites fluid.
 
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no free fluid in the pelvis.
 
REPRODUCTIVE ORGANS: The visualized reproductive organs are 
unremarkable.
 
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There is no pelvic or inguinal 
lymphadenopathy.
 
VASCULAR: There is no abdominal aortic aneurysm.  Moderate 
atherosclerotic
disease is noted.
 
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. There is multilevel lumbar degenerative changes.
 
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits.
 
IMPRESSION:
1. Cirrhotic liver with ascites.
2. No evidence of acute abnormality.
 
CXR ___: 
IMPRESSION: 
 1.  Mild interval improvement in pulmonary vascular congestion.
2.  No focal consolidation.

PATHOLOGY 
================================================
___: Liver, transjugular biopsy:
1. Established Cirrhosis with prominent sinusoidal fibrosis ( 
confirmed by trichrome stain).
2. Hepatocytes with frequent ballooning degeneration and 
frequent intracytoplasmic hyalin. No significant steatosis.
3. Moderate septal and mild lobular mixed inflammation comprised 
of lymphocytes, neutrophils and histiocytes.
4. Focal area of bile ducts with associated neutrophils.
5. Single large vessel with myxoid changes and intimal edema.
6. Iron stain demonstrates no stainable iron.
Note: The findings are that of established cirrhosis on the 
background of toxic/metabolic injury including Amiodarone. Given 
the presence of neutrophils associated with bile ducts 
additional etiology such as biliary obstruction or sepsis should 
be ruled out. Electron microscopy will be performed and results 
will be issued as an addendum.
Electron Microscopy Addendum (C-___): Fine structural studies 
were performed on formalin fixed, paraffin embedded material, 
yielding morphology that is technically suboptimal and therefore
difficult to examine and interpret. Hepatocytes show glycogen 
granules. No evidence of phospholipidosis ("myelin figures" or 
"zebra bodies") is noted.

DISCHARGE LABS
=======================================
___ 08:40AM BLOOD WBC-16.8* RBC-3.55* Hgb-10.4* Hct-31.6* 
MCV-89 MCH-29.3 MCHC-32.9 RDW-24.6* RDWSD-78.4* Plt ___
___ 08:40AM BLOOD ___ PTT-34.7 ___
___ 08:40AM BLOOD Glucose-87 UreaN-38* Creat-1.8* Na-140 
K-4.1 Cl-103 HCO3-22 AnGap-15
___ 08:40AM BLOOD ALT-65* AST-199* AlkPhos-107* 
TotBili-3.0*
___ 08:40AM BLOOD Calcium-8.8 Phos-3.3 Mg-2.___SSESSMENT AND PLAN:   
====================
Mrs. ___ is a ___ year old woman with ___ recently 
diagnosed cirrhosis of unclear etiology complicated by recurrent 
ascites and grade I varices, CAD, atrial fibrillation, heart 
failure with recovered ejection fraction who presented with 
volume overload and acute kidney injury found to have amiodarone 
induced liver cirrhosis and acute tubular necrosis. 

ACUTE ISSUES:
=============
# Amiodarone- Induced Liver Cirrhosis:
Patient was diagnosed with cirrhosis in ___. Cirrhosis 
is decompensated by recurrent ascites and grade I esophageal 
varices. Unclear etiology at the time of presentation. Patient 
underwent extensive work up for infectious, biochemical causes 
of cirrhosis and ultimately underwent liver biopsy. The findings 
are that of established cirrhosis on the background of 
toxic/metabolic injury including Amiodarone. Electron microscopy 
was done but was technically suboptimal and therefore difficult 
to examine and interpret. No evidence of phospholipidosis 
("myelin figures" or "zebra bodies") is noted (which is seen in 
amiodarone toxicity). Patient maintained no history of alcohol 
use. AFP within normal limits during this hospitalization. Liver 
MRI while in hospital with indeterminate 1.9 cm lesion along the 
inferior medial margin of the liver could reflect a regenerative 
nodule however attention on follow-up imaging is recommended.
- Infection: no known history of SBP, negative on multiple 
diagnostic taps while hospitalized
- Bleed: grade I esophageal varices on EGD ___, not on 
nadolol
- Encephalopathy: alert and oriented x3 throughout 
hospitalization with no known history of encephalopathy

# Recurrent ascites
Patient presented with recurrent ascites over the past several 
weeks. Diagnostic paracentesis done ___ with albumin 1.1 and 
total protein 2.0, with SAAG 2.8 consistent with transudative 
ascites. Given prior history of heart failure with reduced 
ejection fraction, also considered heart failure as potential 
etiology, but found to have recovered EF as described below. 
Ultrasound and liver MRI with no portal vein thrombosis. She was 
initially maintained on oral diuretic but this was discontinued 
due to worsening ___ and concern for HRS as below.  Patient 
underwent ___ paracentesis on ___ of 1900cc fluid. She underwent 
repeat ___ paracentesis on ___ of 340cc. She was maintained on 
low salt diet. No known history of SBP and was negative on 
multiple diagnostic taps.

# ___:
Cr on presentation 1.6, from baseline of 0.9. Notably patient 
had presented to ___ with Cr elevation to 1.7. 
This had initially improved with albumin and volume 
resuscitation to baseline but subsequently worsened with 
diuretic, prompting transfer to ___.  No e/o hydronephrosis on 
renal u/s. Urine studies notable for sodium avid state. Renal 
consulted who noted that her urinary sediment did not show 
granular casts, but did show many hyaline casts indicative of 
low tubular flow, thought to be pre-renal in setting of 
diuresis. She was also noted to have monoclonal IgG lambda on 
SPEP and UPEP, however the quantity was small and unlikely to 
have caused light chain nephropathy. It could, however, have put 
her at risk for ___ with volume depletion. Patient received 
albumin challenge without initial response though notably had 
also undergone contrast study and ~2L paracentesis during this 
time period. Patient managed on escalating doses of octreotide 
and midodrine with initial improvement in blood pressure and 
creatinine to nadir 1.2.  Given low concern for HRS the 
octreotide was discontinued but she was continued on midodrine.  
Upon re-introduction of diuretic patient developed subsequent 
renal injury with creatinine rising to 1.9. She received albumin 
resuscitation. Renal re consulted and urine showed several muddy 
brown casts consistent with ATN and given adequate urine output 
they felt she was safe for discharge home with close follow up 
with PCP. If creatinine does not return to baseline then she 
should be referred to nephrology by her primary care doctor.

# Atrial fibrillation:
Patient has a history of persistent atrial fibrillation, managed 
with amiodarone, metoprolol and rivaroxaban. CHADSVASC 5 based 
on gender, CHF, prior stroke, and CAD. Given concern for 
amiodarone induced liver toxicity, amiodarone was discontinued. 
Anticoagulation initially held given liver biopsy and 
coagulopathy associated with cirrhosis. Rivaroxaban 
contraindicated in class B/C child ___ Cirrhosis. Patient 
started on apixaban but developed worsening coagulopathy with 
rising INR. Hematology consulted who felt that warfarin would 
have better safety profile in setting of severe cirrhosis, ___. 
Patient transitioned to warfarin. She was maintained on stable 
1mg daily dose of warfarin for goal INR ___.  

#Abdominal pain
#Nausea, Vomiting
Patient with intermittent ongoing nausea. Developed worsening 
abdominal pain and nausea/vomiting alongside worsening 
leukocytosis and ___ ___. Started on empiric vancomycin and 
cefepime. Cultures obtained, including peritoneal. Patient also 
underwent imaging workup out of concern for obstruction. CT with 
no intra-abdominal abnormality. Paracentesis performed with no 
evidence of SBP. Given lack of focal source and improving 
symptoms, antibiotics discontinued. 

#Hypoxia
#Productive cough 
Patient developed 2L nasal cannula oxygen requirement during 
hospitalization. CXR obtained on ___, notable for some signs of 
pulmonary edema/ cardiac dysfunction. Atelectasis also felt to 
be component. Diuresis deferred given ongoing ___ as above. 
Hypoxia resolved with incentive spirometry and more aggressive 
physical activity with physical therapy.  
 
# HF with recovered EF:
Patient has a history of heart failure, with previous LVEF 
estimated 20% per OSH records. Repeat TTE while in house notable 
for normal ejection fraction, suggestive of recovered ejection 
fraction. She was initially managed with diuretics but then 
discontinued out of concern for HRS as above. Given low blood 
pressures and ___, home lisinopril held. Patient continued on 
metoprolol while in hospital.

# UTI: 
Patient grew E coli on urine culture and was started on 
ceftriaxone 1gm Q24H on ___. She completed a three day course of 
ceftriaxone 1gm daily. 

# Syncope, resolved:
Patient presented initially to ___ after having a 
syncopal episode. Likely orthostasis in the setting of poor PO 
intake, chronic diarrhea, and vasoplegia from cirrhosis.  No 
further episodes of syncope while in the hospital.

CHRONIC ISSUES:
========================
# CAD:
- Maintained on reduced dose atorvastatin in setting of LFT 
elevation.

TRANSITIONAL ISSUES
===================================================
[] Patient will need repeat EGD in ___
[] Patient should be vaccinated against Hepatitis A and 
Hepatitis B
[] MRI with indeterminate 1.9 cm lesion along the inferior 
medial margin of the liver could reflect a regenerative nodule 
however attention on follow-up imaging is recommended.
[] Discharge creatinine 1.8 
[] Discharge weight 87.18 kg
[] Patient is diuretic refractory and has demonstrated repeated 
pre-renal injury with introduction of oral diuretic.  She should 
not be restarted on oral diuretic therapy.
[] Patient started on warfarin 1mg PO daily with goal INR ___
[] Anticoagulation will be managed by her PCPs office.
[] Amiodarone discontinued and felt to be contributor to 
cirrhosis above
[] Atorvastatin dose reduced from 80mg to 40mg in setting of 
underlying liver disease
[] Patient will benefit from home physical therapy services upon 
discharge for home safety evaluation and continued promotion of 
patient's return to their functional baseline. The patient's 
comfortable walking speed of <1.0 m/s is consistent with an 
indication for additional physical therapy to reduce the risk of 
falls.

# CODE: Full code (confirmed)
# CONTACT: ___ (daughter/HCP): ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Spironolactone 50 mg PO DAILY 
2. Furosemide 80 mg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. Levothyroxine Sodium 125 mcg PO DAILY 
5. Amiodarone 400 mg PO DAILY 
6. Atorvastatin 80 mg PO QPM 
7. Hydrochlorothiazide 25 mg PO DAILY 
8. Metoprolol Succinate XL 200 mg PO DAILY 
9. Rivaroxaban 20 mg PO DAILY 

 
Discharge Medications:
1.  Midodrine 15 mg PO TID 
RX *midodrine 5 mg 3 tablet(s) by mouth three times a day Disp 
#*270 Tablet Refills:*0 
2.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals [Vitamins and Minerals]  1 tab-cap 
by mouth once a day Disp #*30 Tablet Refills:*0 
3.  Vitamin D ___ UNIT PO 1X/WEEK (FR) Duration: 8 Weeks 
RX *ergocalciferol (vitamin D2) 50,000 unit 1 capsule(s) by 
mouth once weekly on ___ Disp #*7 Capsule Refills:*0 
4.  Warfarin 1 mg PO DAILY16 
RX *warfarin 1 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
5.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
6.  Levothyroxine Sodium 125 mcg PO DAILY  
7.  Metoprolol Succinate XL 200 mg PO DAILY  
8.Outpatient Lab Work
___
Acute kidney injury N17.9
Basic metabolic panel 
Please fax results to ___ 

9.Outpatient Lab Work
___
Acute kidney injury N17.9
Basic metabolic panel 
Please fax results to ___ 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
=============
Amiodarone induced cirrhosis, complicated by ascites and grade I 
varices
Acute kidney injury
Acute tubular necrosis 

Secondary
=============
Atrial fibrillation
Coronary artery disease
Heart failure
Leukocytosis
Anemia
Urinary tract infection 
Chronic HFpEF
Syncope
Coronary artery disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

Why was I admitted to the hospital?
- You were having worsening kidney function and fluid overload

What happened while I was in the hospital?
- You underwent testing to determine the cause of your 
cirrhosis, including a biopsy. 
- Your cirrhosis may be caused by amiodarone, a medication you 
were prescribed to manage your atrial fibrillation, but the 
biopsy results were not completely consistent with this. Your 
cirrhosis could be due to fatty liver disease but it's not clear 
at this time. 
- You underwent procedures to remove fluid from your abdomen
- You were started on warfarin as this is felt to be the safest 
blood thinner in the setting of your liver disease
- You received medication to support the blood flow of your 
kidney
-The kidney doctors saw ___ you were in the hospital and 
felt that your kidney injury was from dehydration from receiving 
diuretics.
- You were treated for a urinary tract infection 
- You underwent testing for additional infection, which were 
negative

What should I do now that I am leaving the hospital?
- Continue to take your medications as prescribed.  Several of 
your blood pressure and diuretic medications were stopped while 
you were here.
-It is very important that you get your kidney function checked 
on ___ at your primary care doctor's office.  You 
should also get your kidney function checked on ___ prior to your appointment with your doctor.  If your kidney 
function does not completely normalize then your primary care 
doctor ___ refer you to a kidney doctor to see as an 
outpatient.
- Make your follow up appointments with your doctors, including 
your new liver doctor, ___
- ___ are trying to set you up with a new cardiologist at 
___, and they will be in touch with you about your 
appointment in the next few days 
- If you develop lightheadedness, abdominal pain, bleeding, 
black stools or other symptoms that concern you please return to 
the hospital. 

It was a pleasure taking care of you at ___!
Your ___ Liver Team
 
Followup Instructions:
___